US07608631B2
3.5 ml of n-butylamine are added dropwise at 0-5° C. to a solution of 2 g of benzoic acid 3,5-dichloro-4-{3-[4-(5-isopropylsulfanyl-tetrazol-1-yl)-phenoxy]-propoxy}-phenyl ester. After 30 minutes at 0-5° C. and one hour at room temperature, the reaction mixture is concentrated. Purification over silica gel yields 3,5-dichloro-4-{3-[4-(5-isopropylsulfanyl-tetrazol-1-yl)-phenoxy]-propoxy}-phenol. 1H-NMR (CDCl3) 300 MHz: 1.50 (d, 2H), 2.32 (m, 2H), 4.08-4.20 (m, 3H), 4.35 (t, 2H), 5.62 (s, 1H), 6.82 (s, 2H), 7.09 (d, 2H), 7.45 (d, 2H)

reactant | n-butylamine | 3.5 ml | C(CCC)N | C4H11N
reactant | benzoic acid 3,5-dichloro-4-{3-[4-(5-isopropylsulfanyl-tetrazol-1-yl)-phenoxy]-propoxy}-phenyl ester | 2 g | ClC=1C=C(C=C(C1OCCCOC1=CC=C(C=C1)N1N=NN=C1SC(C)C)Cl)OC(C1=CC=CC=C1)=O | C26H24Cl2N4O4S
product | 3,5-dichloro-4-{3-[4-(5-isopropylsulfanyl-tetrazol-1-yl)-phenoxy]-propoxy}-phenol | ClC=1C=C(C=C(C1OCCCOC1=CC=C(C=C1)N1N=NN=C1SC(C)C)Cl)O | C19H20Cl2N4O3S
